Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6],6.82582656365
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])[H:10],3.94976139518
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])=[C:5]1[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-2.72630685288
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.84666805877
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],3.34669522612
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][O:6]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.98476010374
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-5.618766033230001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:3][H:4].[H:1][C:2][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],9.06319598663
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][O:8][H:9]>>[H:1][C:2]#[C:3][C:5]#[C:6][O:7][O:8][H:9].[H:4],1.6700044126499998
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[O:8][H:9]>>[C:1].[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[O:8][H:9],7.3366556762
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],1.36978195878
[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.3983395097
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.50697238729
[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9]>>[H:1][C:2]1[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9]1,1.56974946632
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.36035943655
[O:1][C@@:2]([H:3])([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11]>>[C:2]([H:3])([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11].[O:1],3.5168470847
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])#[C:11][H:12].[H:1][C:2]([H:13])[H:14],1.42614386002
[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])[H:12].[H:1]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])[H:12],-3.96912603325
[H:1][C:2](=[C:3][H:4])[C@:8]([O:7][C:5][H:6])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1[C:3]([H:4])=[C:5]([H:6])[O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-4.4763879014
[C:1]#[C:2][C:3]([C:4]#[C:5])[C:7]([H:8])([H:9])[H:10].[H:6]>>[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-5.84093603224
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:10].[O:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],-7.998250813619999
[C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[O:9][H:10].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[O:9][H:10],-4.36539851828
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:11][H:12].[H:10],1.80542131758
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7][H:8],8.388667281950001
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3][C:4]([H:5])([H:6])[H:7].[H:1][C:2][C:8]([H:9])([H:10])[H:11],7.11103501278
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]=[C:12]([H:13])[H:14],4.849305332209999
[H:12].[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10][H:11]>>[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12],-5.180704664019999
[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.61645957756
[H:1]/[C:2]([O:3][C:4]([H:5])[H:6])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.2015806539
